US04539426
3,5-Dimethoxyaniline (34.62 g, 0.226 mol) in xylene (500 mL) containing suspended sodium carbonate (12.0 g, 0.113 mol) was treated with 3-chloropropane sulfonyl chloride (40.0 g, 0.226 mol) added dropwise with stirring. Stirring was continued for twenty-four hours and the solvent was stripped to provide a black partially crystalline gum. Filtration through dry-column silica gel combined with crystallization from ethyl acetate/hexane provided N-(3,5-dimethoxyphenyl)-3-chloro-1-propanesulfonamide (20 g), m.p. 68°-71° C.

reactant | 3,5-Dimethoxyaniline | 0.226 mol, 34.62 g | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | sodium carbonate | 0.113 mol, 12.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-chloropropane sulfonyl chloride | 0.226 mol, 40.0 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
solvent | xylene | 500 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-(3,5-dimethoxyphenyl)-3-chloro-1-propanesulfonamide | 20 g | COC=1C=C(C=C(C1)OC)NS(=O)(=O)CCCCl | C11H16ClNO4S
